US05834463
Methyl 3-oxo-4-phthalimidobutyrate
To a solution of Meldrum's acid (14.4 g, 0.10 mol) and pyridine (15.8 g, 0.20 mol) in dichloromethane (100 mL) was added dropwise at 0° C., taking 10 minutes, a solution of phthalimidoacetyl chloride (24.6 g,. 0.11 mol) in dichloromethane (50 mL). The mixture was stirred for 30 minutes at the same temperature and for 30 minutes at room temperature. To the reaction mixture was added 1N HCl (200 mL), then insoluble material was filtered off. The aqueous layer was separated, and the organic layer was washed with water, dried over magnesium sulfate and subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was suspended in methanol (200 mL), which was refluxed for 1.5 hour. The reaction mixture was left standing for cooling. Crystalline precipitate was collected by filtration and washed with methanol to give the object compound (18.4 g, 70%), m.p.139°-140° C.

reactant | Meldrum's acid | 0.10 mol, 14.4 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 0.20 mol, 15.8 g | N1=CC=CC=C1 | C5H5N
reactant | phthalimidoacetyl chloride | 0.11 mol, 24.6 g | C1(C=2C(C(N1CC(=O)Cl)=O)=CC=CC2)=O | C10H6ClNO3
reactant | HCl | 1N, 200 mL | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Methyl 3-oxo-4-phthalimidobutyrate | 18.4 g, 70% | O=C(CC(=O)OC)CN1C(C=2C(C1=O)=CC=CC2)=O | C13H11NO5
